US06117869
The phenoxathiine-2-sulfonyl chloride (0.75 g, 2.52 mmol) was mixed with (L)-homo-phenylalanine (0.448 g, 2.52 mmol) and triethylamine (1.2 mL, 7.56 mmol) in 50 mL of water and 50 mL of tetrahydrofuran. The resulting mixture was stirred for 2 hours and then concentrated in vacuo. The residue was partitioned between 1 M HCl and ethyl acetate. The organic phase was dried over magnesium sulfate, and concentrated to give an oily solid. Trituration with diethyl ether gave (S)-2-(phenoxathiine-2-sulfonylamino)-4-phenyl-butyric acid as an off-white powder; mp 149-154° C.

reactant | phenoxathiine-2-sulfonyl chloride | 2.52 mmol, 0.75 g | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO3S2
reactant | (L)-homo-phenylalanine | 2.52 mmol, 0.448 g | N[C@@H](CCC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | triethylamine | 7.56 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (S)-2-(phenoxathiine-2-sulfonylamino)-4-phenyl-butyric acid | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@H](C(=O)O)CCC1=CC=CC=C1 | C22H19NO5S2
